US08110585B2
trans-tert-butyl{[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}carbamate
To a solution of trans-1-[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine (514 mg, 2.34 mmol) in tetrahydrofuran (20 mL) were added triethylamine (654 μL, 4.69 mmol) and di-t-butyl dicarbonate (613 mg, 2.81 mmol), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (741 mg, yield 99%).

reactant | trans-1-[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine | 2.34 mmol, 514 mg | FC1=C(C2=CN(N=C2C=C1)C)[C@H]1[C@@H](C1)CN | C12H14FN3
reactant | triethylamine | 4.69 mmol, 654 μL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 2.81 mmol, 613 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | trans-tert-butyl{[2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}carbamate | 741 mg, yield 99% | C(C)(C)(C)OC(NC[C@H]1[C@@H](C1)C=1C2=CN(N=C2C=CC1F)C)=O | C17H22FN3O2
